US06150524
4,5α-Epoxy-3-methoxymethoxy-17-methyl-morphinan-7-en-6α-ol (1.98 g, 6 mmol) and thiophene-2-acetic acid (0.853 g, 6 mmol) are dissolved in CH2Cl2 (30 ml) at 25° C. Then N,N'-dicyclohexylcarbodiimide (1.24 g, 6 mmol) and 4-dimethylaminopyridine (0.73 g, 6 mmol) are added to the stirred solution. After the solution has been stirred for a further 14 hours at 25° C., the precipitate is filtered off and washed with CH2Cl2 (20 ml). The combined organic phase is washed with water (2×10 ml), dried (Na2SO4), filtered and evaporated down using a Rotavapor. The residue thus formed is purified by flash chromatography (silica gel; mobile phase: CH2Cl2 :MeOH=9:1). The residue is freed from residual solvent in a high vacuum in order to obtain 4,5α-epoxy-3-methoxymethoxy-17-methyl-6α-((2-thienyl)-acetyloxy)-morphinan-7-ene (2.07 g, 76.1%) as a colourless foam.

reactant | 4,5α-Epoxy-3-methoxymethoxy-17-methyl-morphinan-7-en-6α-ol | 6 mmol, 1.98 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4C)O)OCOC | C19H23NO4
reactant | thiophene-2-acetic acid | 6 mmol, 0.853 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | N,N'-dicyclohexylcarbodiimide | 6 mmol, 1.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 6 mmol, 0.73 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4,5α-epoxy-3-methoxymethoxy-17-methyl-6α-((2-thienyl)-acetyloxy)-morphinan-7-ene | 2.07 g, 76.1% | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4C)OC(CC=4SC=CC4)=O)OCOC | C25H27NO5S
